US07517910B2
3-(chloromethyl)-4-isobutoxybenzaldehyde
To a mixture of 4-isobutoxybenzaldehyde (6.9 g, 38.7 mmol), aluminum chloride (12.9 g, 96.8 mmol) and nitromethane (39 mL) was added methoxyacetyl chloride (4.1 mL, 44.5 mmol), with stirring at 0° C., and the mixture was stirred at the same temperature for 3 hr. After completion of the reaction, the reaction mixture was poured into ice water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=4/1) to give the title compound (5.22 g, yield 60%) as colorless crystals. 1H NMR (CDCl3) δ: 1.08 (6H, d, J=6.9 Hz), 2.19 (1H, m), 3.89 (2H, d, J=6.0 Hz), 4.68 (2H, s), 6.98 (1H, d, J=8.4 Hz), 7.84 (1H, dd, J=2.1, 8.4 Hz), 7.91 (1H, d, J=2.1 Hz), 9.89 (1H, s).

reactant | 4-isobutoxybenzaldehyde | 38.7 mmol, 6.9 g | C(C(C)C)OC1=CC=C(C=O)C=C1 | C11H14O2
reactant | aluminum chloride | 96.8 mmol, 12.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methoxyacetyl chloride | 44.5 mmol, 4.1 mL | COCC(=O)Cl | C3H5ClO2
solvent | nitromethane | 39 mL | [N+](=O)([O-])C | CH3NO2
product | 3-(chloromethyl)-4-isobutoxybenzaldehyde | 5.22 g, yield 60% | ClCC=1C=C(C=O)C=CC1OCC(C)C | C12H15ClO2
